US08859580B2
(2R,6R,11S)-6,11-Dimethyl-8-(6-methyl-pyridazin-3-yl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine
2 M Aqueous Na2CO3 solution (1.13 mL) is added to a mixture of (2R,6R,11S)-6,11-dimethyl-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester (483 mg) and 3-chloro-6-methyl-pyridazine (218 mg) in dimethylformamide (2 mL). The resulting mixture is flushed with argon and then 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane complex (73 mg) is added. The mixture is heated to 100° C. and stirred at this temperature overnight. After cooling to room temperature, water is added and the resulting mixture is extracted with ethyl acetate. The combined organic extracts are washed with water and brine and dried (MgSO4). The solvent is removed under reduced pressure and the residue is taken up in CH2Cl2 (3 mL) and treated with F3CCOO2H (0.5 mL) for 1 h. Then, the solution is concentrated and the residue is purified by HPLC on reversed phase (MeCN/H2O/NH3) to afford the title compound.

reactant | Na2CO3 | 2 M, 1.13 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (2R,6R,11S)-6,11-dimethyl-8-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3-carboxylic acid tert-butyl ester | 483 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CC3=C([C@](CC1)([C@@H]2C)C)C=C(C=C3)B3OC(C(O3)(C)C)(C)C | C25H38BNO4
reactant | 3-chloro-6-methyl-pyridazine | 218 mg | ClC=1N=NC(=CC1)C | C5H5ClN2
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (2R,6R,11S)-6,11-Dimethyl-8-(6-methyl-pyridazin-3-yl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine | C[C@@]12C3=C(C[C@@H](NCC1)[C@H]2C)C=CC(=C3)C=3N=NC(=CC3)C | C19H23N3
